US09227978B2
2-(2-(4,5-Dichloro-2-iodophenoxy)pyridin-4-yloxy)ethanol
A mixture of 2-(4,5-dichloro-2-iodophenoxy)-4-chloropyridine (0.45 g, 1.128 mmol), ethane-1,2-diol (4 mL, 71.89 mmol), K2CO3 (0.45 mg, 3.26 mmol) in acetone (6 mL) was stirred at 120° C. for 5 h. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed withed brine, dried over Na2SO4 and concentrated. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate=20:1 to 4:1) to afford the desired product (160 mg, 33% yield). ESI-MS m/z: 426.0[M+H]+.

reactant | 2-(4,5-dichloro-2-iodophenoxy)-4-chloropyridine | 1.128 mmol, 0.45 g | ClC1=CC(=C(OC2=NC=CC(=C2)Cl)C=C1Cl)I | C11H5Cl3INO
reactant | ethane-1,2-diol | 71.89 mmol, 4 mL | C(CO)O | C2H6O2
reactant | K2CO3 | 3.26 mmol, 0.45 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | acetone | 6 mL | CC(=O)C | C3H6O
product | 2-(2-(4,5-Dichloro-2-iodophenoxy)pyridin-4-yloxy)ethanol | 160 mg, 33% yield | ClC1=CC(=C(OC2=NC=CC(=C2)OCCO)C=C1Cl)I | C13H10Cl2INO3
